US05665718
9.4 g (34.7 mmol) of 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide were stirred at room temperature for 3 hours in 75 ml of N,N-dimethyl- formamide with 27.1 g (41.5 mmol) of chloroacetic anhydride. After evaporating the solvent the residue was stirred at room temperature overnight with 75 ml of a 10% solution of phosphorus pentoxide in methanesulphonic acid. The reaction mixture was treated with ice, made alkaline with conc. sodium hydroxide solution and extracted four times with methylene chloride. By drying the organic phase over magnesium sulfate, evaporation of the solvent and chromatography of the residue on silica gel while eluting with ethyl acetate there were obtained 6.9 g (61%) of 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 221°-222°.

reactant | 5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylic acid hydrazide | 34.7 mmol, 9.4 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)NN | C13H13N5O2
reactant | chloroacetic anhydride | 41.5 mmol, 27.1 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | N,N-dimethyl- formamide | 75 ml | CN(C=O)C | C3H7NO
product | 3-(5-chloromethyl-1,3,4-oxadiazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 6.9 g, 61% | ClCC1=NN=C(O1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C15H12ClN5O2
